US04892961
Methyl (S)-(+)-3-(t-butyldimethylsilyloxy)-2-methylpropionate (10.0 g; 43.1 mmol) was dissolved in anhydrous dichloromethane (100 ml), and a hexane solution (100 ml) of 1M diisobutylaluminum hydride was dropwise added thereto at a temperature below 0° C. in an argon stream. After stirring for 30 minutes, water (20 ml) was added thereto, and the resultant mixture was stirred for 1 hour, followed by separation of the organic layer. The aqueous layer was extracted with dichloromethane, and the extracts were combined together with the organic layer. The solvent was distilled under reduced pressure to give (R)-(+)-3-(t-butyldimethylsilyloxy)-2-methyl-1-propanol (7.9 g; yield, 90%) as a colorless oil. A portion of the oil was distilled to give a purified product (bath temperature: 112° C./17 mmHg).

reactant | Methyl (S)-(+)-3-(t-butyldimethylsilyloxy)-2-methylpropionate | 43.1 mmol, 10.0 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C(=O)OC)C | C11H24O3Si
reactant | hexane | 100 ml | CCCCCC | C6H14
reactant | diisobutylaluminum hydride | 1M | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | 20 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (R)-(+)-3-(t-butyldimethylsilyloxy)-2-methyl-1-propanol | 7.9 g, 90% | [Si](C)(C)(C(C)(C)C)OC[C@@H](CO)C | C10H24O2Si
